* Include-safe Sky130A five-transistor OTA module.

.subckt ota_5t vss vbias vdd vinn vinp vout
XN1 nleft vinp tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=1
XN2 vout vinn tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=1
XP3 nleft nleft vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=16 nf=1
XP4 vout nleft vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=16 nf=1
XN5 tail vbias vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=16 nf=1
.ends ota_5t
