* Differential input, single-ended output five-transistor OTA.
* Ports: vss vbias vdd vinn vinp vout
.subckt five_transistor_ota vss vbias vdd vinn vinp vout
XN1 left vinp tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=1
XN2 vout vinn tail vss sky130_fd_pr__nfet_01v8 l=0.5 w=8 nf=1
XP3 left left vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=16 nf=1
XP4 vout left vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=16 nf=1
XN5 tail vbias vss vss sky130_fd_pr__nfet_01v8 l=0.5 w=16 nf=1
.ends five_transistor_ota
