* Include-safe Sky130A ring oscillator module.

.subckt aa_inv in out vdd vss
XP out in vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=1.26 nf=1
XN out in vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 nf=1
.ends aa_inv

.subckt ring_oscillator vdd vss out tap1 tap2
X0 tap2 out vdd vss aa_inv
X1 out tap1 vdd vss aa_inv
X2 tap1 tap2 vdd vss aa_inv
.ends ring_oscillator
